US04196149
A rubber-capped serum bottle containing 25 ml of ethanol was purged of air with argon, and then charged by means of a syringe with 2.31 g (11.25 mmol) of tris(dimethylaminomethyl)phosphine and 7.00 ml (42.0 mmol) of 6N hydrochloric acid. The solution, which fumed but remained clear, was shaken for 30 min and then stripped under vacuum, leaving 3.55 g (100% yield) of tris(dimethylaminomethyl)phosphine trihydrochloride as a white, crystalline solid.

reactant | tris(dimethylaminomethyl)phosphine | 11.25 mmol, 2.31 g | CN(C)CP(CN(C)C)CN(C)C | C9H24N3P
reactant | hydrochloric acid | 42.0 mmol, 6N, 7.00 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | tris(dimethylaminomethyl)phosphine trihydrochloride | 3.55 g, 100% yield | Cl.Cl.Cl.CN(C)CP(CN(C)C)CN(C)C | InChI=1S/C9H24N3P.3ClH/c1-10(2)7-13(8-11(3)4)9-12(5)6;;;/h7-9H2,1-6H3;3*1H
